US04772600
2-(4-Chlorophenyl)-N-(4,5-dihydro-2-thiazolyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole), 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for 3.5 hours with a stream of nitrogen bubbling through it. Solid 2-amino-2-thiazoline (2.67 g, 0.0261 mole) was added to the reaction mixture. The resulting suspension was allowed to stir at room temperature overnight. The solvent was evaporated under reduced pressure to give a white solid. The solid was triturated in water (200 ml), filtered, and the filter cake was rinsed twice more with water. The resulting solid was heated in boiling isopropyl alcohol to dissolve most of it, filtered while hot, and cooled to room temperature. A white precipitate formed. Water was added, and the white solid was filtered and rinsed once with isopropyl alcohol and twice with isopropyl ether. A 1.0-g sample of the resulting 3.3 g of white solid was dried at high vacuum to give 0.6 g (29%) of title compound, mp. 227°-229° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | 2-amino-2-thiazoline | 0.0261 mole, 2.67 g | NC=1SCCN1 | C3H6N2S
solvent | Water | O | H2O
product | 2-(4-Chlorophenyl)-N-(4,5-dihydro-2-thiazolyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 0.6 g, 29% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC=1SCCN1 | C17H14ClN5OS
